US05656629
A mixture of 1-cyclopentyl-3-ethyl-6-(methylsulfonyl)pyrazolo[3,4-d]pyrimidin-4-one (2.3 g, 7.4 mmol) and aniline (1.2 g, 13 mmol) was heated at 180°-190° C. for 3 hours. The reaction mixture was cooled to room temperature and allowed to stand at room temperature overnight. Ether was added to the reaction mixture and the product was collected by filtration, washed with ether and dried at 80°-85° C. in a vacuum oven to afford crude product. The crude product was treated with saturated NaHCO3 (25 mL) and the insoluble material was collected by filtration, dissolved in hot isopropanol, treated with charcoal and concentrated in vacuo. The residue was crystallized from ether and dried at 80°-85° C. in a vacuum oven to afford 0.58 g (25%) of 1-cyclopentyl-3-ethyl-6-(phenylamino)pyrazolo[3,4-d]pyrimidin-4-one.

reactant | 1-cyclopentyl-3-ethyl-6-(methylsulfonyl)pyrazolo[3,4-d]pyrimidin-4-one | 7.4 mmol, 2.3 g | C1(CCCC1)N1NC(=C2C1=NC(=NC2=O)S(=O)(=O)C)CC | C13H18N4O3S
reactant | aniline | 13 mmol, 1.2 g | NC1=CC=CC=C1 | C6H7N
reactant | NaHCO3 | 25 mL | C(=O)(O)[O-].[Na+]
solvent | Ether | CCOCC | C4H10O
product | 1-cyclopentyl-3-ethyl-6-(phenylamino)pyrazolo[3,4-d]pyrimidin-4-one | 0.58 g, 25% | C1(CCCC1)N1NC(=C2C1=NC(=NC2=O)NC2=CC=CC=C2)CC | C18H21N5O
